US08648066B2
3-{[(3S)-3-aminopyrrolidin-1-yl]sulfonyl}-5-{4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}pyridin-2-amine.
Synthesized according to the method of example 5 using (S)-tert-butyl 1-(2-amino-5-bromopyridin-3-ylsulfonyl)pyrrolidin-3-ylcarbamate (reagent preparation 25) and {4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid (reagent preparation 23) in step 1 and BOC group deprotection. 1H NMR (400 MHz, d6-DMSO): 8.80 (s, 1H), 8.65 (d, 1H), 8.41 (m, 2H), 8.22 (m, 1H), 8.04 (d, 1H), 7.78 (s, 1H), 7.53 (d, 1H), 7.35 (m, 2H), 6.98 (br m, 2H), 5.43 (S, 2H), 4.62 (s, 2H), 4.49 (s, 2H), 3.92 (s, 3H), 3.79 (m, 1H), 3.69 (m, 1H), 3.55-3.45 (m, 3H), 3.32 (m, 2H), 2.20 (m, 1H), 1.91 (M, 1H); MS (EI) for C27H29N7O4S: 548 (MH+).

reactant | (S)-tert-butyl 1-(2-amino-5-bromopyridin-3-ylsulfonyl)pyrrolidin-3-ylcarbamate | NC1=NC=C(C=C1S(=O)(=O)N1C[C@H](CC1)NC(OC(C)(C)C)=O)Br | C14H21BrN4O4S
reactant | {4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid | COC1=CC=C2C(=NC=NC2=C1)N1CCOC2=C(C1)C=C(C=C2)B(O)O | C18H18BN3O4
product | 3-{[(3S)-3-aminopyrrolidin-1-yl]sulfonyl}-5-{4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}pyridin-2-amine | N[C@@H]1CN(CC1)S(=O)(=O)C=1C(=NC=C(C1)C=1C=CC2=C(CN(CCO2)C2=NC=NC3=CC(=CC=C23)OC)C1)N | C27H29N7O4S
